US04618678
In a similar manner, diketene was reacted with (±)-2-methoxy-2-phenylethanol to obtain 2-methoxy-2-phenylethyl acetoacetate, BP 115°-120° C./0.2 mm.

reactant | diketene | C=C1CC(=O)O1 | C4H4O2
reactant | (±)-2-methoxy-2-phenylethanol | COC(CO)C1=CC=CC=C1 | C9H12O2
product | 2-methoxy-2-phenylethyl acetoacetate | C(CC(=O)C)(=O)OCC(C1=CC=CC=C1)OC | C13H16O4
